US07875639B2
N-[(2Z)-4,5-dimethyl-3-(4-methylpentyl)-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide
4,5-Dimethylthiazol-2-ylamine, 1-bromo-4-methyl-pentane and 1-adamantane carboxylic acid were processed according to the method of Example 47 to afford the title compound. 1H NMR (CDCl3, 500 MHz) δ ppm 0.87 (d, J=6.55 Hz, 6 H) 1.18-1.27 (m, 2 H) 1.54-1.62 (m, 1 H) 1.62-1.76 (m, 8 H) 1.84 (d, J=2.50 Hz, 6 H) 1.94-2.03 (m, 3 H) 2.15 (s, 3 H) 2.20 (s, 3 H) 3.98-4.11 (m, 2 H); MS (ESI) m/z 374 (M=H)+.

reactant | 4,5-Dimethylthiazol-2-ylamine | CC=1N=C(SC1C)N | C5H8N2S
reactant | 1-bromo-4-methyl-pentane | BrCCCC(C)C | C6H13Br
reactant | 1-adamantane carboxylic acid | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
product | N-[(2Z)-4,5-dimethyl-3-(4-methylpentyl)-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide | CC=1N(/C(/SC1C)=N/C(=O)C12CC3CC(CC(C1)C3)C2)CCCC(C)C | C22H34N2OS
